US06258854B1
Synthesis of 4-(3-Methyl-5-phenyl-pentyloxycarbonyloxy)-undecanoic acid 2-naphthalen-2-yl-2-oxo-ethyl ester
To a solution of 4.00 g of 4-hydroxy-undecanoic acid-2-naphthalen-2-yl-2-oxo-ethyl ester and 1.71 g of pyridine in 20 ml of THF, a solution of 2.91 g of 3-methyl-5-phenyl-pentanol-chloroformate in 10 ml of THF was dropped in at 0° C. The mixture was stirred for 3 hours at room temperature. Then, the reaction mixture was quenched with water and extracted with ether. The organic phase was washed with 2N HCl, saturated sodium bicarbonate, and water. Then, the mixture was dried, filtered, and evaporated to dryness. The resulting yellow oil was purified by chromatography to yield 5.46 g of a colorless oil.

reactant | 4-hydroxy-undecanoic acid-2-naphthalen-2-yl-2-oxo-ethyl ester | 4.00 g | C1=C(C=CC2=CC=CC=C12)C(COC(CCC(CCCCCCC)O)=O)=O | C23H30O4
reactant | pyridine | 1.71 g | N1=CC=CC=C1 | C5H5N
reactant | 3-methyl-5-phenyl-pentanol chloroformate | 2.91 g | CC(CCO)CCC1=CC=CC=C1.ClC(=O)[O-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(3-Methyl-5-phenyl-pentyloxycarbonyloxy)-undecanoic acid 2-naphthalen-2-yl-2-oxo-ethyl ester | 5.46 g | C1=C(C=CC2=CC=CC=C12)C(COC(CCC(CCCCCCC)OC(=O)OCCC(CCC1=CC=CC=C1)C)=O)=O | C36H46O6
